US05968938
To a stirred solution of methyl 4-(N-tert-butyloxy-carbonyl-4-piperidinyloxy)-2-(2,2,2-trifluoroethoxy)phenylacetate (3.0 g, MW=435, 6.90 mmol) from Step 7 above in MeOH (25 mL) was added a solution of aqueous NaOH (6.9 mL of a 2.0 N solution, 13.8 mmol). The mixture was refluxed for 3 h and then cooled to ambient temperature. The solvents were removed under reduced pressure and the residue was partitioned between EtOAc (100 mL) and 0.25 M aqueous citric acid (75 mL). The organic phase was separated and washed with H2O (25 mL) and brine (25 mL). The organic phase was dried (MgSO4), filtered, and the solvent was removed under reduced pressure. 4-(N-tert-butyloxycarbonyl-4-piperidinyloxy)-2-(2,2,2-trifluoroethoxy)phenylacetic acid was obtained as an amorphous solid (HPLC retention time=9.4 min (method A)).

reactant | methyl 4-(N-tert-butyloxy-carbonyl-4-piperidinyloxy)-2-(2,2,2-trifluoroethoxy)phenylacetate | 6.90 mmol, 3.0 g | C(C)(C)(C)ON1C(CC(CC1)OC1=CC(=C(C=C1)CC(=O)OC)OCC(F)(F)F)=C=O | C21H26F3NO6
reactant | NaOH | [OH-].[Na+]
reactant | MeOH | 25 mL | CO | CH4O
product | 4-(N-tert-butyloxycarbonyl-4-piperidinyloxy)-2-(2,2,2-trifluoroethoxy)phenylacetic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1)CC(=O)O)OCC(F)(F)F | C20H26F3NO6
